US09278983B2
A mixture of N2-methyl-5-trifluoromethylpyridin-2,3-diamine (1.34 g), 2-methylsulfanylbenzaldehyde (1.28 g), sodium hydrogen sulfite (2.19 g), and DMF (14 ml) was stirred with heating at 80° C. for 1 hour, and then heated to 120° C., and stirred with heating for further 3 hours. Into the reaction mixture cooled to room temperature, saturated aqueous ammonium chloride solution was poured, and extracted with ethyl acetate 3 times. The combined organic layer was dried over magnesium sulfate, and concentrated under reduced pressure. The resulting residue was subjected to silica gel column chromatography to give 0.74 g of 3-methyl-2-(2-methylsulfanylphenyl)-6-trifluoromethyl-3H-imidazo[4,5-b]pyridine (hereinafter referred to as Present Compound 1).

reactant | N2-methyl-5-trifluoromethylpyridin-2,3-diamine | 1.34 g | CNC1=NC=C(C=C1N)C(F)(F)F | C7H8F3N3
reactant | 2-methylsulfanylbenzaldehyde | 1.28 g | CSC1=C(C=O)C=CC=C1 | C8H8OS
reactant | sodium hydrogen sulfite | 2.19 g | S(=O)(O)[O-].[Na+]
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | DMF | 14 ml | CN(C)C=O | C3H7NO
product | 3-methyl-2-(2-methylsulfanylphenyl)-6-trifluoromethyl-3H-imidazo[4,5-b]pyridine | 0.74 g | CN1C(=NC=2C1=NC=C(C2)C(F)(F)F)C2=C(C=CC=C2)SC | C15H12F3N3S
